* FILE: MMI_BUFC.sp


* SPICE netlist for "MMI_BUFC" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_BUFC in out 
M_0 out N1 vdd vdd p W='3.08*1u' L=lp_min ad='areap(3.08,sdd)' 
+ as='areap(3.08,sdd)' pd='perip(3.08,sdd)' ps='perip(3.08,sdd)'
M_1_1 out N1 gnd gnd n W='1.54*1u' L=ln_min ad='arean(1.54,sdd)' 
+ as='arean(1.54,sdd)' pd='perin(1.54,sdd)' ps='perin(1.54,sdd)'
M_2_1 N1 in gnd gnd n W='0.52*1u' L=ln_min ad='arean(0.52,sdd)' 
+ as='arean(0.52,sdd)' pd='perin(0.52,sdd)' ps='perin(0.52,sdd)'
M_3_1 N1 in vdd vdd p W='1.04*1u' L=lp_min ad='areap(1.04,sdd)' 
+ as='areap(1.04,sdd)' pd='perip(1.04,sdd)' ps='perip(1.04,sdd)'
*.ENDS	$ MMI_BUFC

