* FILE: MMI_BUFD.sp


* SPICE netlist for "MMI_BUFD" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_BUFD in out 
M_0 out N1 vdd vdd p W='6.16*1u' L=lp_min ad='areap(6.16,sdd)' 
+ as='areap(6.16,sdd)' pd='perip(6.16,sdd)' ps='perip(6.16,sdd)'
M_1_1 out N1 gnd gnd n W='3.08*1u' L=ln_min ad='arean(3.08,sdd)' 
+ as='arean(3.08,sdd)' pd='perin(3.08,sdd)' ps='perin(3.08,sdd)'
M_2_1 N1 in vdd vdd p W='2.08*1u' L=lp_min ad='areap(2.08,sdd)' 
+ as='areap(2.08,sdd)' pd='perip(2.08,sdd)' ps='perip(2.08,sdd)'
M_3_1 N1 in gnd gnd n W='1.04*1u' L=ln_min ad='arean(1.04,sdd)' 
+ as='arean(1.04,sdd)' pd='perin(1.04,sdd)' ps='perin(1.04,sdd)'
*.ENDS	$ MMI_BUFD

